US08859591B2
Step F: (+/−)-3-(4-{1-[3,5-difluoro-4-(4-trifluoromethyl-pyrazol-1-yl)-phenoxy]-butyl}-benzoylamino)-propionic acid
The title compound was prepared by a method analogous to that described for Example 20 using (+/−)-4-{1-[3,5-difluoro-4-(4-trifluoromethyl-pyrazol-1-yl)-phenoxy]-butyl}benzoic acid ethyl ester. Column: Waters Atlantis d C18 4.6×50 mm, 5 μm; Modifier: TFA 0.05%; Gradient: 95% H20/5% acetonitrile linear to 5% H20/95% acetonitrile over 4.0 min, hold at 5% H20/95% acetonitrile to 5.0 min. Flow: 2.0 mL/min.; Retention time: 3.31 minutes. MS (M+1): 512.1.

reactant | (+/−)-4-{1-[3,5-difluoro-4-(4-trifluoromethyl-pyrazol-1-yl)-phenoxy]-butyl}benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C(CCC)OC1=CC(=C(C(=C1)F)N1N=CC(=C1)C(F)(F)F)F)=O | C23H21F5N2O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetonitrile | C(C)#N | C2H3N
product | (+/−)-3-(4-{1-[3,5-difluoro-4-(4-trifluoromethyl-pyrazol-1-yl)-phenoxy]-butyl}-benzoylamino)-propionic acid | FC=1C=C(OC(CCC)C2=CC=C(C(=O)NCCC(=O)O)C=C2)C=C(C1N1N=CC(=C1)C(F)(F)F)F | C24H22F5N3O4
